US04493796
A sample of didemnin B (1.0 mg) was dissolved in 1 ml of pyridine and 0.5 ml of acetic anhydride was added. The solution was stirred at room temperature for 18 hours and evaporated to dryness. The residue obtained was dissolved in 3 ml of ether and extracted with water (4×1.5 ml). Evaporation of the dried (Na2SO4) organic phase afforded 0.90 mg (84% yield) of diacetyldidemnin B as a white, amorphous solid, mp 128°-131° C.; Rf 0.65; HPLC retention time (84:16 methanol:water) 9.1 min; EIMS (70 eV) major ions at m/z 70 (100% of base peak), 86 (12), 100 (13), 121 (45), 154 (18), 184 (15), 212 (20), 224 (4), 268 (9), 339 (9), 422 (3); HREIMS gave a molecular ion at m/z 1195.6604 which corresponds to the expected molecular formula C61H93N7O17 (Δ=-2.2 mmu).

reactant | didemnin B | 1.0 mg | CC[C@H](C)[C@@H]1[C@H](CC(=O)O[C@H](C(=O)[C@@H](C(=O)N[C@H](C(=O)N2CCC[C@H]2C(=O)N([C@H](C(=O)O[C@@H]([C@@H](C(=O)N1)NC(=O)[C@@H](CC(C)C)N(C)C(=O)[C@@H]3CCCN3C(=O)C(C)O)C)CC=4C=CC(=CC4)OC)C)CC(C)C)C)C(C)C)O | C57H89N7O15
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ether | 3 ml | CCOCC | C4H10O
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | diacetyldidemnin B | 0.90 mg, 84% yield | CCC(C)[C@H]1[C@H](CC(=O)O[C@H](C(=O)[C@@H](C(=O)N[C@@H](C(=O)N2CCC[C@H]2C(=O)N(C(C(=O)O[C@H]([C@@H](C(=O)N1)NC(=O)[C@H](CC(C)C)N(C)C(=O)[C@@H]3CCCN3C(=O)C(C)OC(=O)C)C)CC4=CC=C(C=C4)OC)C)CC(C)C)C)C(C)C)OC(=O)C | C61H93N7O17
